US06365736B1
2-(2-nitro-4,5-methylenedioxy-phenoxy)-propionic acid ethyl ester
2-(6-nitro-5-indanoxy)-butyric acid ethyl ester and 2-(4-nitro-5-indanoxy)-butyric acid ethyl ester

reactant | 2-(6-nitro-5-indanoxy)-butyric acid ethyl ester | C(C)OC(C(CC)OC=1C=C2CCCC2=CC1[N+](=O)[O-])=O | C15H19NO5
reactant | 2-(4-nitro-5-indanoxy)-butyric acid ethyl ester | C(C)OC(C(CC)OC=1C(=C2CCCC2=CC1)[N+](=O)[O-])=O | C15H19NO5
product | 2-(2-nitro-4,5-methylenedioxy-phenoxy)-propionic acid ethyl ester | C(C)OC(C(C)OC1=C(C=C2C(=C1)OCO2)[N+](=O)[O-])=O | C12H13NO7
